US07109229B2
(a) 3-[1-(3-Hydroxypropyl)-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
A 1.0 M solution of KOtBu in THF (9.2 mL, 9.2 mmol) was added to a solution of 2-(1-3-hydroxypropyl-1H-indol-3-yl)-acetamide (616 mg, 2.65 mmol) and (1-methyl-1H-indol-7-yl)-oxo-acetic acid methyl ester (566 mg, 2.61 mmol) in DMF (40 mL). The initially light yellow solution turned red-orange and was stirred 14 h at rt. 1N HCl was added and the mixture poured into EtOAc. The EtOAc layer was separated and washed with water (3×), saturated aq NaHCO3 (2×) and brine (3×), dried (MgSO4), filtered and concentrated onto SiO2. Flash chromatography (1:1 EtOAc:CH2Cl2) afforded a red solid that was dried at 70° C. for 72 h giving the title compound (689 mg, 66%) as a bright red solid. 1H NMR (400 MHz, DMSO-d6) 11.12 (s, 1H), 8.05 (s, 1H), 7.61 (d, J=8 Hz, 1H), 7.43 (d, J=8 Hz, 1H), 7.25 (d, J=3 Hz, 1H), 6.92–7.04 (m, 2H), 6.87 (d, J=8 Hz, 1H), 6.44–6.50 (m, 2H), 6.21 (d, J=8 Hz, 1H), 4.64 (m, 1H), 4.27 (t, J=7 Hz, 2H), 3.68 (s, 3H), 3.30–3.40 (m, 2H), 1.80–1.90 (m, 2H). 13C NMR (75.5 MHz, DMSO-d6) 173.43, 172.37, 136.15, 134.62, 134.26, 131.54, 129.58, 129.19, 128.57, 125.20, 124.11, 122.07, 121.53, 121.03, 120.12, 118.56, 115.18, 110.34, 104.28, 100.73, 57.54, 42.94, 34.68, 32.54. IR (CHCl3, cm−1) 3436, 1721. MS (electrospray, m/z) 400 (M++1), 398 (M−−1). Anal. Calcd for C24H21N3O3: C, 72.17; H, 5.30; N, 10.52. Found: C, 71.87; H, 5.29; N, 10.45.

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 9.2 mmol, 9.2 mL | C1CCOC1 | C4H8O
reactant | 2-(1-3-hydroxypropyl-1H-indol-3-yl)-acetamide | 2.65 mmol, 616 mg | OCCCN1C=C(C2=CC=CC=C12)CC(=O)N | C13H16N2O2
reactant | (1-methyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 2.61 mmol, 566 mg | COC(C(=O)C=1C=CC=C2C=CN(C12)C)=O | C12H11NO3
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[1-(3-Hydroxypropyl)-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 689 mg, 66% | OCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C24H21N3O3
